US04497819
0.5 g of potassium iodide was added to 19.6 g (0.06 mole) of 1-chloro-2-(7-chlorodibenzofuran-3-yloxy)-ethane and 16.4 g (0.24 mole) of imidazole in 50 ml of dimethylformamide, and the mixture was stirred for 16 hours at 110° C., cooled and then evaporated down under reduced pressure. The residue was partitioned between 100 ml of water and 1 liter of methylene chloride, and 20 ml of 50% strength sodium hydroxide solution were added, while cooling with ice. The organic layer was separated off, washed with three times 50 ml of water, dried, and evaporated down under reduced pressure. The solid, colorless residue was left to stand with 15 ml of ether at +5° C. for 1 hour, after which it was filtered off under suction and washed with 20 ml of cold n-pentane. 13.2 g (70.4% of theory) of N-[2-(7-chlorodibenzofuran-3-yloxy)-ethyl]-imidazole of melting point 150°-151° C. were obtained.

reactant | 1-chloro-2-(7-chlorodibenzofuran-3-yloxy)-ethane | 0.06 mole, 19.6 g | ClCCOC=1C=CC2=C(OC3=C2C=CC(=C3)Cl)C1 | C14H10Cl2O2
reactant | imidazole | 0.24 mole, 16.4 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.5 g | [I-].[K+]
product | N-[2-(7-chlorodibenzofuran-3-yloxy)-ethyl]-imidazole | 13.2 g, 70.4% | ClC1=CC2=C(C3=C(O2)C=C(C=C3)OCCN3C=NC=C3)C=C1 | C17H13ClN2O2
